### ISSUE TITLE
Proof obligation for `digitsAppend_two_one_getD_zero` in `LatticeCrypto/MLKEM/Concrete/Encoding.lean`

### ISSUE THREAD

**Issue by quangvdao** [Verified-zkEVM/VCV-io#212]
A proof in `LatticeCrypto/MLKEM/Concrete/Encoding.lean` contains a `sorry`.

**Goal:** Replace the `sorry` with a complete proof.

[Link to the sorry on GitHub](https://github.com/Verified-zkEVM/VCV-io/blob/master/LatticeCrypto/MLKEM/Concrete/Encoding.lean#L197)

**Code Snippet:**
```lean
private theorem digitsAppend_getD_two_lt {d n bit : Nat} (hn : n < 2 ^ d) (hbit : bit < d) :
    (Nat.digitsAppend 2 d n).getD bit 0 < 2 := by
  rw [List.getD_eq_getElem _ _ (by simpa [Nat.length_digitsAppend (by decide) d hn] using hbit)]
  exact Nat.lt_of_mem_digitsAppend (by decide) d _ (List.getElem_mem _)

private theorem digitsAppend_two_one_getD_zero :
```
